data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4030,4615,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([NH+:10]=[C:11]([CH3:12])[C:13]([CH3:14])=[O:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[NH:10][C:11]1([CH3:12])[C:13]([CH3:14])=[O:15],water,298.15,26.725836087728805,-14.558706230871506
1242,1358,[CH2-:10][N+:11]([CH3:12])=[C:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:13]([C:14](=[O:15])[O:16][CH3:17])([C:18](=[O:19])[O:20][CH3:21])[N:11]([CH3:12])[CH2:10]2,water,298.15,33.73372657852749,-26.43261390316637
4507,5140,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([C:18]#[N:19])[C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:22]([CH3:23])=[O:24])[NH:16][C:17]2([C:18]#[N:19])[C:20]#[N:21],water,298.15,28.20772400535125,-1.8251355808054173
4457,5089,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([C:19](=[O:20])[NH:21][CH3:22])[o+:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:18]2([C:19](=[O:20])[NH:21][CH3:22])[C:16](=[O:17])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[O:23]2,water,298.15,14.946403552887665,-16.810647312946084
4934,5620,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[CH-:19][N+:20]#[C:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:19]([C:17]([NH:16][CH3:15])=[O:18])[N:20]=[C:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,8.42462825044328,-27.65846227365432
395,427,[CH3:1][O:2][C:3]#[C:4][Br:5].[CH3:6][C:7](=[O:8])[CH:9]=[NH+:10][N-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:9]([C:7]([CH3:6])=[O:8])[NH:10][N:11]1[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,25.66424040179913,-42.45001857606364
4396,5023,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[c:13]1[nH+:14][c-:15](-[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[c:22](=[O:23])[o:24]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:15]1([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[NH:14][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[O:24][C:22]1=[O:23],water,298.15,14.822897450714889,-0.4728661400196528
401,437,[CH3:10][C:11]#[N+:12][C-:13]([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:11]([CH3:10])=[N:12][C:13]2([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19],water,298.15,31.87640139951925,-21.010366754515104
3212,3626,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:16]=[N:15][N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,30.91202453707523,-5.0779834117709255
1877,2081,[CH3:10][O:11][C:12](=[O:13])[CH-:14][O+:15]=[CH:16][C:17]#[N:18].[CH3:1][NH:2][C:3](=[O:4])[C:5]([Br:6])=[C:7]([Br:8])[Br:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]([Br:8])([Br:9])[CH:14]([C:12]([O:11][CH3:10])=[O:13])[O:15][CH:16]1[C:17]#[N:18],water,298.15,19.43440567293433,-47.9172208649778
1619,1790,[CH2:13]=[NH+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:15]([C:16]([CH3:17])=[O:18])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[NH:14][CH2:13]2,water,298.15,11.078036620468696,-30.66131816124352
1483,1638,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[N+:16]([CH3:17])[C-:18]([C:19]#[N:20])[C:21]#[N:22].[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:18]([C:19]#[N:20])([C:21]#[N:22])[N:16]([CH3:17])[C:14]2([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,32.45667106224566,-9.164580964615965
3998,4574,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][c:16]([C:17]#[N:18])[o:19][c:20]1=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[O:15][C:16]1([C:17]#[N:18])[O:19][C:20]2=[O:21],water,298.15,15.565140530128144,-24.244220175736928
